### PR TITLE
clean up all warnings in Refine

### PR DESCRIPTION
**Pull request by Xaphiosis**
Refine is warning-free possibly for the first time in history, hopefully
we can keep it that way.

Adjusted:
- use `del:` to remove safe elimination rules prior to using them as
  destruction rules (prevents warning from blast), or alternatively
  use `supply *[rule del]`
- after interpreting a locale inside another and re-binding a name, move
  any attribute declarations for re-bound theorems to after the locale,
  otherwise it isn't clear which theorem we are trying to tag
- vcpuBits_def removed from objBits_defs (clash with bit_simps)
- bit_simps, projectKOs and archObjSize_def were already simp
- declares which already happened earlier
- obj_at_simps was only used on 32-bit arches, and had duplicates
- raw_tcb_cte_cases_simps 0 case was a duplicate
- clearMemory was already crunch_ignore
- use no_valid_cap_syn to prevent spec_validE vs valid_cap_syn ambiguity
- adjust some `no_0_*[elim!]` lemmas to be proper `[dest!]` lemmas
- clear crunches that proved nothing, combine overlapping crunches

### CODE REVIEW

File: proof/refine/ARM/ArchVSpace_R.thy [hunk 1]
```diff
@@ -892,7 +892,7 @@ lemma deleteASID_corres:
       apply (drule Some_to_the)
       apply (wpsimp wp: getASID_wp)+
    apply (clarsimp simp: valid_arch_state_def valid_asid_table_def
-                  dest!: invs_arch_state)
+                   del: invs_arch_state dest!: invs_arch_state)
```
Comment (corlewis) [inline proof/refine/ARM/ArchVSpace_R.thy:895]: This does seem like the best way of handling it but it's frustrating that we need to duplicate rules like this to avoid warnings.

File: proof/refine/CNodeInv_R.thy [hunk 2]
```diff
@@ -908,10 +908,15 @@ termination finaliseSlot'
 lemmas finaliseSlot'_simps_ext =
     finaliseSlot'.simps [THEN ext [where f="finaliseSlot' slot exp" for slot exp]]
 
+context includes no_valid_cap_syn begin
+
 lemmas finalise_spec_induct = finaliseSlot'.induct[where P=
     "\<lambda>sl exp s. s \<turnstile> \<lbrace>P sl exp\<rbrace> finaliseSlot' sl exp \<lbrace>Q sl exp\<rbrace>,\<lbrace>E sl exp\<rbrace>" for P Q E]
```
Comment (corlewis) [inline proof/refine/CNodeInv_R.thy:914]: This is some pretty bad style, thoughts on fixing it while we're making changes here?

File: proof/refine/Finalise_R.thy [hunk 3]
```diff
@@ -2527,6 +2525,7 @@ lemma unbindNotification_corres:
            apply (clarsimp simp: ntfn_relation_def split:Structures_A.ntfn.splits)
           apply (rule setBoundNotification_corres)
          apply (wp gbn_wp' gbn_wp)+
+   supply [rule del] = invs_valid_objs invs_valid_objs' (* suppress elim warning *)
```
Comment (corlewis) [inline proof/refine/Finalise_R.thy:2528]: I think I prefer doing `del:` directly in the relevant steps instead of this sort of `supply`. It's fine in cases like this where it's towards the end of a proof, but it doesn't feel like a pattern that we want to encourage. If the proof becomes more complicated and people don't notice that the rules have been removed from `elim` then it could lead to confusing states.

File: proof/refine/InvariantUpdates_H.thy [hunk 4]
```diff
@@ -86,10 +89,13 @@ lemma ifunsafe_update [iff]:
 (* exports from Arch locale version (safe for generic use) *)
 interpretation Arch_p_arch_idle_update_eq' ..
 
-lemmas valid_arch_state_update'[iff] = valid_arch_state_update'
+lemmas valid_arch_state_update' = valid_arch_state_update'
 
 end
 
+(* avoid duplicate declaration warning when re-binding name after interpretation *)
+lemmas (in p_arch_idle_update_eq') [iff] =  valid_arch_state_update'
```
Comment (corlewis) [inline proof/refine/InvariantUpdates_H.thy:97]: Extra space after `=`

File: proof/refine/IpcCancel_R.thy [hunk 5]
```diff
@@ -582,6 +583,7 @@ lemma (in delete_one_gen) cancelIPC_ReplyCap_corres:
        od)"
   proof -
   show ?thesis
+  supply state_relation_pspace_relation[rule del] (* suppress safe elim warning *)
```
Comment (corlewis) [inline proof/refine/IpcCancel_R.thy:586]: This is a case where it doesn't feel right to me to remove `state_relation_pspace_relation` as an `elim` rule in the whole proof, instead of just in the one step that uses it as a `dest` rule. I guess it's fine since you have it working but I could easily see other steps still wanting to use it as an `elim` rule.

File: proof/refine/IpcCancel_R.thy [hunk 6]
```diff
@@ -870,7 +872,7 @@ proof -
          y \<leftarrow> setEndpoint epptr ep';
          setThreadState Inactive t
       od \<lbrace>\<lambda>rv. invs'\<rbrace>"
-    supply no_0_obj_at'[rule del] (* avoid weak elim rule warning *)
+    supply no_0_obj_at'[rule del]
```
Comment (corlewis) [inline proof/refine/IpcCancel_R.thy:875]: Out of curiosity, is this still needed? If it is, why remove the comment now?

**Review by corlewis — APPROVED** [review]
Very nice, thank you for doing this!

It does feel a bit odd to me about how we have to delete `elim` rules when using them as `del` rules but that's a fight with Isabelle that probably isn't worth having.

File: proof/invariant-abstract/Invariants_AI.thy [hunk 7]
```diff
@@ -394,6 +394,11 @@ abbreviation
 where
   "s \<turnstile> c \<equiv> valid_cap c s"
 
+(* include in order to prevent syntax ambiguity warning with spec_validE *)
+bundle no_valid_cap_syn begin
+no_notation valid_cap_syn ("_ \<turnstile> _" [60, 60] 61)
+end
```
Comment (lsf37) [inline proof/invariant-abstract/Invariants_AI.thy:400]: Looking at it again, we should probably consider the new-ish support for the `no` keyword for syntax bundles. This means, we'd have a positive syntax bundle `valid_cap_syn`, and could then use `unbundle no valid_cap_syn` and `includes no valid_cap_syn` to remove it. That provides flexibility for both directions.

The definitions would be

```suggestion
abbreviation valid_cap_syn :: "'z::state_ext state \<Rightarrow> cap \<Rightarrow> bool"  where
"valid_cap_syn s c \<equiv> valid_cap c s"

(* use with "includes no valid_cap_syn" in order to prevent syntax ambiguity warning with spec_validE *)
open_bundle valid_cap_syn begin
notation valid_cap_syn ("_ \<turnstile> _" [60, 60] 61)
end
```

(`open_bundle` is the same as `bundle x <block>` followed directly by `unbundle x`)

It's not entirely great for this one, because the abbreviation cannot be moved into the bundle and when its syntax is removed, people will see `valid_cap_syn` in the output. But that is also the case with the current implementation in this PR, more a general annoyance of the abbreviation/syntax mechanism.

File: proof/refine/ARM/ArchInvsLemmas_H.thy [hunk 8]
```diff
@@ -111,7 +111,6 @@ clear_named_theorems Arch_assms (* accumulate assumptions for Invariants_H_cte_a
 
 (* FIXME arch-split: for proofs which require exact offsets lining up instead of cteSizeBits *)
 lemma raw_tcb_cte_cases_simps:
-  "tcb_cte_cases 0  = Some (tcbCTable, tcbCTable_update)"
   "tcb_cte_cases 16 = Some (tcbVTable, tcbVTable_update)"
```
Comment (lsf37) [inline proof/refine/ARM/ArchInvsLemmas_H.thy:114]: It's a bit strange that this lemma set ends up being incomplete. I can see a future self wanting to complete the set. Can you add a comment that and where the 0 case is already covered?

File: proof/refine/ARM_HYP/ArchInvsLemmas_H.thy [hunk 9]
```diff
@@ -108,7 +108,6 @@ clear_named_theorems Arch_assms (* accumulate assumptions for Invariants_H_cte_a
 
 (* FIXME arch-split: for proofs which require exact offsets lining up instead of cteSizeBits *)
 lemma raw_tcb_cte_cases_simps:
-  "tcb_cte_cases 0  = Some (tcbCTable, tcbCTable_update)"
```
Comment (lsf37) [inline proof/refine/ARM_HYP/ArchInvsLemmas_H.thy:111]: (same as for ARM)

File: proof/refine/CNodeInv_R.thy [hunk 10]
```diff
@@ -5839,6 +5843,8 @@ crunch capSwapForDelete
 context CNodeInv_R begin
 
 lemma finaliseSlot_abort_cases':
+  includes no_valid_cap_syn
+  shows
   "s \<turnstile> \<lbrace>\<top>\<rbrace>
```
Comment (lsf37) [inline proof/refine/CNodeInv_R.thy:5848]: If we're adding a `shows`, we do need to indent the rest of the lemma statement by 2 under the `shows` or start the entire statement after the `shows`.

File: proof/refine/CNodeInv_R.thy [hunk 11]
```diff
@@ -6563,6 +6571,8 @@ lemmas finalise_induct3 = finaliseSlot'.induct[where P=
     "\<lambda>sl exp s. P sl (finaliseSlot' sl exp) s" for P]
 
 lemma finaliseSlot_rvk_prog:
+  includes no_valid_cap_syn
+  shows
   "s \<turnstile> \<lbrace>\<lambda>s. revoke_progress_ord m (option_map capToRPO \<circ> cteCaps_of s)\<rbrace>
```
Comment (lsf37) [inline proof/refine/CNodeInv_R.thy:6576]: shows statement indent

File: proof/refine/CNodeInv_R.thy [hunk 12]
```diff
@@ -8740,6 +8751,8 @@ crunch capSwapForDelete
   (wp: withoutPreemption_lift)
 
 lemma preemptionPoint_IRQInactive_spec:
+  includes no_valid_cap_syn
+  shows
   "s \<turnstile> \<lbrace>valid_irq_states'\<rbrace>
```
Comment (lsf37) [inline proof/refine/CNodeInv_R.thy:8756]: shows statement indent

File: proof/refine/CNodeInv_R.thy [hunk 13]
```diff
@@ -8753,6 +8766,8 @@ crunch finaliseCap
    simp: crunch_simps o_def)
 
 lemma finaliseSlot_IRQInactive':
+  includes no_valid_cap_syn
+  shows
   "s \<turnstile> \<lbrace>valid_irq_states'\<rbrace>
```
Comment (lsf37) [inline proof/refine/CNodeInv_R.thy:8771]: shows statement indent

File: proof/refine/CNodeInv_R.thy [hunk 14]
```diff
@@ -8813,6 +8828,8 @@ lemma cteDelete_irq_states':
   done
 
 lemma cteRevoke_IRQInactive':
+  includes no_valid_cap_syn
+  shows
   "s \<turnstile> \<lbrace>valid_irq_states'\<rbrace> cteRevoke x
   \<lbrace>\<lambda>_. \<top>\<rbrace>, \<lbrace>\<lambda>rv s. intStateIRQTable (ksInterruptState s) rv \<noteq> irqstate.IRQInactive\<rbrace>"
```
Comment (lsf37) [inline proof/refine/CNodeInv_R.thy:8834]: shows statement indent

File: proof/refine/CSpace_R.thy [hunk 15]
```diff
@@ -5180,6 +5180,7 @@ lemma locateSlot_cap_to'[wp]:
 (* FIXME: ambiguous notation between spec_validE (this) and validE; introduce bundles for both,
    unbundle by default, and use `includes no` contexts to disambiguate *)
 lemma rab_cap_to'':
+  includes no_valid_cap_syn
   assumes P: "\<And>cap. isCNodeCap cap \<longrightarrow> P cap"
   shows
   "s \<turnstile> \<lbrace>\<lambda>s. isCNodeCap cap \<longrightarrow> (\<forall>r\<in>cte_refs' cap (irq_node' s). ex_cte_cap_wp_to' P r s)\<rbrace>
```
Comment (lsf37) [inline proof/refine/CSpace_R.thy:5186]: It looks like people have already done this adding of `shows` without indent here before (maybe that is where you picked it up). If we're changing this lemma, we should probably fix that up.

**Review by lsf37 — APPROVED** [review]
Nice!

Not much we can do about the name duplication in the del/dest/elim pattern without rewriting the parsers of fastforce and auto, so I think this is the best we can achieve for now.

File: proof/invariant-abstract/Invariants_AI.thy (hunk 7 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/Invariants_AI.thy:400]: I'm not sure I'm up to date on the `no` tech. On the surface level, doesn't your example result in no actual syntax being given to `valid_cap_syn` outside of contexts where the bundle is included? i.e. if "open_bundle is the same as bundle x <block> followed directly by unbundle x", then the syntax will be off by default, no?

Comment (lsf37) [reply proof/invariant-abstract/Invariants_AI.thy:400]: Because of the implicit `unbundle`, the syntax will be on by default exactly like before.

File: proof/refine/ARM/ArchVSpace_R.thy (hunk 1 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchVSpace_R.thy:895]: In an ideal world we could patch upstream in some way, but of course contributions are not welcome. Maybe we should consider trying it on our fork one of these days when there's more time?

File: proof/refine/CSpace_R.thy (hunk 15 above)
Comment (Xaphiosis) [reply proof/refine/CSpace_R.thy]: Yeah, I was blending in with the existing master works to create a smaller diff. Will adjust.

File: proof/invariant-abstract/Invariants_AI.thy (hunk 7 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/Invariants_AI.thy]: Will do. This is kind of annoying, because the abbreviation is now only for swapping the arguments, otherwise it could've been a syntax bundle for valid_cap itself. Ho hum.

File: proof/refine/ARM/ArchInvsLemmas_H.thy (hunk 8 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchInvsLemmas_H.thy:115]: will add `(* 0 case already covered by tcb_cte_cases_simps *)` on all arches

File: proof/refine/IpcCancel_R.thy (hunk 6 above)
Comment (Xaphiosis) [reply proof/refine/IpcCancel_R.thy]: Not needed, will remove, thanks for catching it

File: proof/refine/CNodeInv_R.thy (hunk 2 above)
Comment (Xaphiosis) [reply proof/refine/CNodeInv_R.thy]: does this look more reasonable?
```
lemmas finalise_spec_induct =
  finaliseSlot'.induct[
    where P="λsl exp s. s ⊢ ⦃P sl exp⦄ finaliseSlot' sl exp ⦃Q sl exp⦄,⦃E sl exp⦄" for P Q E]
```

**Comment by Xaphiosis** [comment]
Hopefully I've addressed all the PR comments. Will still need to squash once you're ok with the changes.

File: proof/refine/CNodeInv_R.thy (hunk 2 above)
Comment (corlewis) [reply proof/refine/CNodeInv_R.thy]: A lot more, thank you!

**Comment by corlewis** [comment]
Changes look good to me

**Review by lsf37 — APPROVED** [review]
Changes look good, thank you!
